US07960394B2
2-{4-[(1-Cyclobutylpiperidin-4-yl)oxy]phenyl}-3-methyl-3,7-dihydropyrido[3,4-d]pyrimidine-4,8-dione (50 mg, 0.123 mmol), sodium chlorodifluoroacetate (19 mg, 0.13 mmol) and potassium carbonate (34 mg, 0.25 mmol) were heated under reflux in acetonitrile (1 mL) for 6 hours. Sodium chlorodifluoroacetate (19 mg, 0.13 mmol) and acetonitrile (1 mL) were further added to the reaction solution and heated under reflux for 18 hours. After restored to room temperature, the reaction solution was diluted with ethyl acetate, washed with water and saturated saline water in that order, and the organic layer was dried with magnesium sulfate. The solvent was evaporated off, and the residue was purified through silica gel thin-layer chromatography (chloroform/methanol=9/1) to obtain a low-polar compound, 2-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}-8-(difluoromethoxy)-3-methylpyrido[3,4-d]pyrimidin-4(3H)-one (4.8 mg, 9%), and a high-polar compound, 2-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}-7-(difluoromethyl)-3-methyl-3,7-dihydropyrido[3,4-d]pyrimidine-4,8-dione (11.4 mg, 21%) as a pale yellow solid.

reactant | 2-{4-[(1-Cyclobutylpiperidin-4-yl)oxy]phenyl}-3-methyl-3,7-dihydropyrido[3,4-d]pyrimidine-4,8-dione | 0.123 mmol, 50 mg | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)C=1N(C(C2=C(N1)C(NC=C2)=O)=O)C | C23H26N4O3
reactant | sodium chlorodifluoroacetate | 0.13 mmol, 19 mg | ClC(C(=O)[O-])(F)F.[Na+]
reactant | potassium carbonate | 0.25 mmol, 34 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Sodium chlorodifluoroacetate | 0.13 mmol, 19 mg | ClC(C(=O)[O-])(F)F.[Na+]
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 2-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}-8-(difluoromethoxy)-3-methylpyrido[3,4-d]pyrimidin-4(3H)-one | 4.8 mg, 9% | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)C=1N(C(C2=C(N1)C(=NC=C2)OC(F)F)=O)C | C24H26F2N4O3
